US04071627
Utilizing the procedure of Example V, 2-oximino-3-methyl-4-butyltetrahydro-1,4-thiazin-5-one was reacted with methyl isocyanate in the presence of triethylamine to yield 7.0 of 2-[O-(methylcarbamoyl)oximino]-3-methyl-4-butyltetrahydro-1,4-thiazin-5-one, m.p. 118°-120° C. An nmr spectrum supported the proposed structure.

reactant | 2-oximino-3-methyl-4-butyltetrahydro-1,4-thiazin-5-one | N(O)=C1SCC(N(C1C)CCCC)=O | C9H16N2O2S
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[O-(methylcarbamoyl)oximino]-3-methyl-4-butyltetrahydro-1,4-thiazin-5-one | CNC(=O)ON=C1SCC(N(C1C)CCCC)=O | C11H19N3O3S
